US05665718
A solution of 10 g (55.2 mmol) of 5-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione and 5.66 g (55.2 mmol) of L-azetidine-2-carboxylic acid in 75 ml of dimethylformamide and 15 ml of acetic acid was stirred at 120° for 16 hours. The brown solution was evaporated and the brown residue obtained was crystallized from ethanol. There were obtained 6 g (42%) of (S)-5-fluoro-1,2,4,9,10,10a-hexahydroazeto[2,1-c][1,4]benzodiazepine-4,10-dione as beige needles of m.p. 232°-233.5°.

reactant | 5-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione | 55.2 mmol, 10 g | FC1=CC=CC2=C1C(OC(N2)=O)=O | C8H4FNO3
reactant | L-azetidine-2-carboxylic acid | 55.2 mmol, 5.66 g | C1CN[C@@H]1C(=O)O | C4H7NO2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | (S)-5-fluoro-1,2,4,9,10,10a-hexahydroazeto[2,1-c][1,4]benzodiazepine-4,10-dione | 6 g, 42% | FC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CC1)=O | C11H9FN2O2
